US06638929B2
3-[2-(4-Morpholinyl)ethyl]-8-(4-phenoxyanilino)-3H-imidazo[4,5-g]quinoline-7-carbonitrile
Following the procedure of Example 7, a mixture of 82.2 mg (0.24 mmol) of 8-chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile, 53.3 mg (0.29 mmol) of 4-phenoxyaniline and 33.5 mg (0.29 mmol) of pyridine hydrochloride in 3.5 mL of 2-ethoxyethanol is heated at 130-135° C. for 1 hour to yield 81.2 mg (69%) of the product as a yellow solid, mp>260° C.

reactant | 8-chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 0.24 mmol, 82.2 mg | ClC1=C(C=NC=2C=C3C(=CC12)N=CN3CCN3CCOCC3)C#N | C17H16ClN5O
reactant | 4-phenoxyaniline | 0.29 mmol, 53.3 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | pyridine hydrochloride | 0.29 mmol, 33.5 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 3.5 mL | C(C)OCCO | C4H10O2
product | 3-[2-(4-Morpholinyl)ethyl]-8-(4-phenoxyanilino)-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 81.2 mg, 69% | N1(CCOCC1)CCN1C=NC2=CC=3C(=C(C=NC3C=C21)C#N)NC2=CC=C(C=C2)OC2=CC=CC=C2 | C29H26N6O2
